US07405221B2
2-(N,N-Dimethylamino)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine
To a 25 mL thick glass wall pressure tube was added a stirrer bar, 4 mL DMF and 2-methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (42 mg 0.1 mmol). Then excess dimethylamine in ether (2M) was added, the tube sealed and heated at 100° C. for 18 h. The solvents were removed under high vacuum, and product was obtained. HPLC/MS: m/e=379 (M+1); Rt=3.79 min; 1H-NMR 500 MHz (CDCl3): δ 3.18 (s, 6H), 7.40 (d, J=9 Hz, 1H), 7.5-7.6 (m, 3H), 7.8 (m, 2H), 8.20 (s, 1H).

reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | 2-methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | 0.1 mmol, 42 mg | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | dimethylamine | CNC | C2H7N
solvent | ether | 2M | CCOCC | C4H10O
product | 2-(N,N-Dimethylamino)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CN(C)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C18H14Cl3N3
